US06756378B2
To a stirred solution of ethyl 3-methoxy-4-(2-ethylaminoethoxy)benzoate (290 mg, 1.08 mmol) and pentafluorophenyl ester of 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (502 mg, 1.05 mmol) in DMF (7 mL) was added Et3N (250 μl, 1.79 mmol), and the resulting mixture was stirred overnight. The mixture was diluted with EtOAc, washed with 0.5 N HCl, brine, and dried over Na2SO4. The solvent was evaporated and the residue was purified by column chromatography on silica-gel with CHCl3—MeOH (40:1, v/v) as an eluent to give 550 mg (93%) ethyl 3-methoxy-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]ethylaminoethoxy]benzoate as an amorphous solid. 1H-NMR (CDCl3) d 1.11-1.18 (m, 3 H), 1.37-1.41 (m, 3 H), 2.30 (s, 3 H), 3.47-3.53 (m, 2 H), 3.61-3.75 (m, 7 H), 3.84 (s, 3 H), 4.03-4.27 (m, 2 H), 4.33-4.39 (m, 2 H), 6.34-8.07 (series of m, total 12 H).

reactant | ethyl 3-methoxy-4-(2-ethylaminoethoxy)benzoate | 1.08 mmol, 290 mg | COC=1C=C(C(=O)OCC)C=CC1OCCNCC | C14H21NO4
reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 1.05 mmol, 502 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | Et3N | 1.79 mmol, 250 μl | CCN(CC)CC | C6H15N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 3-methoxy-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]ethylaminoethoxy]benzoate | 550 mg, 93% | COC=1C=C(C(=O)OCC)C=CC1OCCNCCC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C31H37N3O7
